US04070366
2,4-Dimethyl-3-acetyl-5-(3-pentyl)-pyrrole
3-Pentanone (0.85 ml) was added to a solution of 548 mg of 2,4-dimethyl-3-acetyl-pyrrole, in 10 ml of aq. hydriodic acid, 10 ml of acetic anydride and 2 ml of hypophosphorous acid. The solution was stirred for 13/4 hours then poured into 200 ml of water to precipitate the product as tiny nearly colourless prisms (651 mg, 79%), m.p. about 186°-189° C. For analysis it was recrystallized from ethanol as colourless plates, m.p. 188.5° C. after a solid phase change at 135°. Anal. Calc. for C13H21NO: C, 75.31; H, 10.21; N, 6.76. Found: C, 75.13; H, 10.04; N, 6.78.

reactant | 3-Pentanone | 0.85 ml | CCC(CC)=O | C5H10O
reactant | 2,4-dimethyl-3-acetyl-pyrrole | 548 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | acetic | 10 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
solvent | hydriodic acid | 10 ml | I | HI
solvent | water | 200 ml | O | H2O
product | 2,4-Dimethyl-3-acetyl-5-(3-pentyl)-pyrrole | CC=1NC(=C(C1C(C)=O)C)C(CC)CC | C13H21NO
